US08937150B2
1-benzyl-4-(4-methoxyphenyl)piperidin-4-ol
(4-Methoxyphenyl)magnesium bromide (0.5 M in THF, 90 mL, 45.0 mmol) was added slowly (˜25 minutes) via cannula to a cold (0° C.) solution of 1-benzylpiperidin-4-one (5.4 mL, 30.2 mmol) in THF (60 mL). The reaction was stirred at 0° C. under nitrogen for 2 hours. The reaction was quenched with saturated aqueous NH4Cl then diluted with ether. The organic fraction was washed with saturated aqueous NH4Cl (2×) brine (1×) and concentrated. Purification using flash chromatography (5-100% EtOAc/hexane) provided 4.02 g (44%) of the titled compound. MS (DCI) m/z 298 (M+H)+.

reactant | (4-Methoxyphenyl)magnesium bromide | 45.0 mmol, 0.5 M, 90 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | 1-benzylpiperidin-4-one | 30.2 mmol, 5.4 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-benzyl-4-(4-methoxyphenyl)piperidin-4-ol | 4.02 g, 44% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)OC | C19H23NO2
